US07951810B2
{(2R,3S,5R)-5-[5-Ethyl-4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate (I-124)
A suspension of {(2R,3S,5R)-5-[5-ethynyl-4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate (0.0824 g, 0.190 mmol) and Pd/C (10% wt, ˜50% H2O, 0.01 g) in EtOH (10 mL) was stirred under an atmosphere of H2 (1 atm) for 5 h at r.t. The reaction mixture was filtered through celite and the filtrate was concentrated. The residue was purified by flash chromatography (0 to 10% MeOH/DCM) to give the title compound (0.010 g, 11%).

reactant | {(2R,3S,5R)-5-[5-ethynyl-4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate | 0.190 mmol, 0.0824 g | S(N)(OC[C@H]1O[C@H](C[C@@H]1O)N1C=C(C2=C1N=CN=C2CCC2=CC=CC=C2)C#C)(=O)=O | C21H22N4O5S
reactant | H2O | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | {(2R,3S,5R)-5-[5-Ethyl-4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate | 0.010 g, 11% | S(N)(OC[C@H]1O[C@H](C[C@@H]1O)N1C=C(C2=C1N=CN=C2CCC2=CC=CC=C2)CC)(=O)=O | C21H26N4O5S
